Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o DM2 (uncontrolled), poorly differentiated Gastric CA 
T2N0Mx s/p subtotal gastrectomy ___ admitted with fever, 
weakness.  At baseline, reports that his sugar has been labile 
with BS intermittently going high to 300s.  Nearly ___ days ago, 
developed cough, sore-throat, fevers, associated with worsened 
hyperglycemia 400's.  Also notes having concurrent dysuria.  
Reports 3d ago developing temp to 103 and then 2d PTA temp 102.  
He went to PCP yesterday and noted to be hypotensive to the 
___, unwell.  As a result, was sent to the ED.
   In the ED, reportedly he was no longer hypotensive.  WBC 
11.1, CXR neg, U/A with ___ large, Nit neg, WBC 15.  He was given 
total of 3.5 L IVF over span of ED stay and given vanc/zosyn for 
empiric coverge (presumed urosepsis).   He was admitted for 
further mgmt.
  

ROS: per HPI, denies night sweats, headache, vision changes, 
rhinorrhea, congestion, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, hematuria.  A 10 pt review of sxs was 
otherwise negative.

 
Past Medical History:
# Hyperchol
# DM2 - uncontrolled, mild retinopathy
# poorly differentiated Gastric CA with signet ring features 
T2N0Mx
 - s/p 6 cycles of ECF completed ___
 - s/p robotic-assisted subtotal gastrectomy with RNY 
reconstruction, radical lymphadenectomy ___
# Asthma
# Spinal stenosis
# BPH s/p prostate surgery x2
# Anxiety/depression
# Compression fx L1 Lumbar vertebra
 
Social History:
___
Family History:
Family History: sister - eye cancer, father - prostate cancer
Mother- T2 diabetes, MI in ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs: 98.0  154/75  96 20 98% RA 
GEN: NAD, well-appearing, lying in bed, interactive, pleasant
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, no HSM, no CVAT  
EXT: warm, no c/c/e
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent

DISCHARGE PHYSICAL EXAM
VS: 97.9 165/80 81 18 95 RA 
GEN: NAD, well-appearing, lying in bed, interactive, pleasant
EYES: anicteric, non-injected
ENT: MMM, grossly nl OP. No tonsilar euxudates, no significant 
erythema or coblestoning. 
NECK: supple, non meningismus, no LAD
BACK: no spinous process tenderness, no CVAT
CV: RRR nl S1/S2 no g/r/m 2+ rad/DP pulses
CHEST: CTAB no w/r/r
ABD: soft, NT/ND, NABS, no HSM. CGM in LLQ, no erythema
GU: no suprapubic fullness/tenderness. 
EXT: warm, no c/c/e, no joint effusions. 
SKIN: no rashes 
NEURO: alert, oriented x 3. moves all extremities spontaneously 
and with purpose. Facial movements symmetrical, speech fluent, 
eyes conjugate, sensation to light touch preserved grossly. 
PSYCH: pleasant and appropriate
 
Pertinent Results:
ADMISSION LABS:
___ 04:05PM BLOOD WBC-11.1* RBC-4.48* Hgb-12.2* Hct-38.6* 
MCV-86 MCH-27.2 MCHC-31.6* RDW-14.4 RDWSD-45.7 Plt ___
___ 04:05PM BLOOD Neuts-65.3 Lymphs-18.3* Monos-15.5* 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-7.26* AbsLymp-2.04 
AbsMono-1.72* AbsEos-0.05 AbsBaso-0.03
___ 04:05PM BLOOD ___ PTT-34.3 ___
___ 04:05PM BLOOD Plt ___
___ 04:05PM BLOOD Glucose-129* UreaN-29* Creat-1.1 Na-141 
K-3.9 Cl-102 HCO3-27 AnGap-12
___ 04:05PM BLOOD ALT-29 AST-26 AlkPhos-66 TotBili-0.4
___ 04:05PM BLOOD Albumin-4.1
___ 04:18PM BLOOD ___ pO2-28* pCO2-57* pH-7.34* 
calTCO2-32* Base XS-1
___ 04:18PM BLOOD Lactate-2.5*
___ 04:18PM BLOOD O2 Sat-43

IMAGING
# CXR (___): Lungs are clear bilaterally.   There is a right 
chest wall Port-A-Cath with tip extending to the level of the  
mid SVC. There is no focal consolidation, effusion, or 
pneumothorax. The  cardiomediastinal silhouette is normal. 
Imaged osseous structures are intact.   No free air below the 
right hemidiaphragm is seen. Clips are noted in the  left upper 
abdomen.  IMPRESSION:   No acute intrathoracic process. 
Port-A-Cath positioned appropriately 

MICRO:
- UCx: URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
- BCx: No growth to date

DISCHARGE LABS:
___ 05:00AM BLOOD WBC-4.6 RBC-3.84* Hgb-10.5* Hct-33.1* 
MCV-86 MCH-27.3 MCHC-31.7* RDW-14.2 RDWSD-45.3 Plt ___
___ 05:00AM BLOOD Glucose-225* UreaN-12 Creat-0.8 Na-144 
K-4.4 Cl-107 HCO3-28 AnGap-9*
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Calcium-8.5 Phos-3.2 Mg-1.9
 
Brief Hospital Course:
Mr ___ is a ___ year old man with a history of IDDM2 
(uncontrolled), poorly differentiated gastric CA T2N0Mx s/p 
subtotal gastrectomy (___) admitted with fever and weakness.

# Fever / Sepsis
# Weakness
# Hypotension (transiently): Admitted with high fevers (103 at 
home), hypotension, WBC 11.1. His only localizing symptoms on 
admission were a sore throat (with normal exam) and dysuria 
(+pyuria, but UCx NGTD). CXR was normal. He was started on 
ceftriaxone for a presumed UTI but urine culture returned with 
no growth. He was maintained on antibiotics until blood cultures 
were without growth for 3 days. CBC differential was notable for 
monocytosis on admission, suggesting a viral process. AT time of 
discharge, patient had been afebrile for 72 hours, blood 
cultures were still without growth, patient was feeling 
subjectively much improved: tolerating regular diet, having more 
engery and walking independently and steadily in the hallways. 
Antibiotics were stopped and he was discharged to home with 
intent to follow-up with his PCP. 

# IDDM2
# Hyperglycemia: Blood sugars were elevated during admission, 
ranging from 200-350. FSBS correlated well with patient's 
continuous glucose monitor. He was maintained on home glargine 
dosing, a diabetic diet and was kept on a sliding scale in favor 
of his home correctional scale short acting. 

# Depression/Anxiety: Continued home citalopram and clonazepam
# Asthma/COPD: Continue home advair.
# HTN: Decreased home metoprolol to 12.5.

TRANSITIONAL ISSUES
- Medication changes: metoprolol decreased to 12.5mg daily

Time spent coordinating discharge > 30 minutes
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Bethanechol 50 mg PO TID 
3. calcium carbonate-vitamin D3 500 mg calcium- 400 unit/5 mL 
oral DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Citalopram 20 mg PO QHS 
6. ClonazePAM 1 mg PO QAM 
7. ClonazePAM 2 mg PO QHS 
8. colestipol 1 gram oral BID 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. Gabapentin 600 mg PO TID 
11. Glargine 11 Units Breakfast
Glargine 4 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
12. Loratadine 10 mg PO QAM 
13. Metoprolol Succinate XL 25 mg PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
16. Rosuvastatin Calcium 40 mg PO QPM 
17. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
DAILY Disp #*14 Tablet Refills:*0 
2.  Glargine 11 Units Breakfast
Glargine 4 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
3.  Aspirin 81 mg PO DAILY  
4.  Bethanechol 50 mg PO TID  
5.  calcium carbonate-vitamin D3 500 mg calcium- 400 unit/5 mL 
oral DAILY  
6.  Citalopram 20 mg PO QHS  
7.  ClonazePAM 1 mg PO QAM  
8.  ClonazePAM 2 mg PO QHS  
9.  colestipol 1 gram oral BID  
10.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
11.  Gabapentin 600 mg PO TID  
12.  Loratadine 10 mg PO QAM  
13.  Omeprazole 20 mg PO DAILY  
14.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
15.  Rosuvastatin Calcium 40 mg PO QPM  
16.  Tamsulosin 0.4 mg PO QHS  
17.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Viral Infection
Weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to the hospital because you had a fever and 
felt weak. Ther was concern that you had a bacterial infection 
and you were treated with antibiotics. Your blood and urine work 
indicated that you did not clearly have an infection and your 
antibiotics were stopped. You did not have any further fevers 
and with time, your weakness and energy improved. We believe 
your symptoms were likely due to a viral infection.

Please note that your metoprolol has been decreased to 12.5mg 
daily (from 25mg daily)

You will need to follow-up with your primary care doctor after 
you leave the hospital. 

Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if you develop a 
worsening or recurrence of the same symptoms that originally 
brought you to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern you.

It was a pleasure taking care of you!
Your ___ Care Team

 
Followup Instructions:
___